US05869485
5-(4-Hydroxyphenyl)-7-[3-(3-(1-imidazolyl)propoxy)phenyl]-4-aminopyrrolo-[2,3-d]pyrimidine
0.9 g of 5-(4-benzyloxyphenyl)-7-[3-(3-(1-imidazolyl)propoxy)phenyl]-4-aminopyrrolo[2,3-d]-pyrimidine are hydrogenated in a hydrogen atmosphere at normal pressure and about 40° C. for 20 h in 40 ml of THF in the presence of 0.15 g of 10% palladium/carbon. After filtration through Celite and chromatography of the residue on silica gel (methylene chloride/methanol 9:1) 5-(4-hydroxyphenyl)-7-[3-(3-(1-imidazolyl)propoxy)phenyl]-4-amino-pyrrolo[2,3-d]pyrimidine (Rf=0.2 silica gel, methylene chloride/methanol 9:1) is obtained.

reactant | 5-(4-benzyloxyphenyl)-7-[3-(3-(1-imidazolyl)propoxy)phenyl]-4-aminopyrrolo[2,3-d]-pyrimidine | 0.9 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1=CN(C=2N=CN=C(C21)N)C2=CC(=CC=C2)OCCCN2C=NC=C2 | C31H28N6O2
reactant | hydrogen | [H][H] | H2
solvent | THF | 40 ml | C1CCOC1 | C4H8O
catalyst | palladium/carbon | 0.15 g | [Pd] | Pd
product | 5-(4-Hydroxyphenyl)-7-[3-(3-(1-imidazolyl)propoxy)phenyl]-4-aminopyrrolo-[2,3-d]pyrimidine | OC1=CC=C(C=C1)C1=CN(C=2N=CN=C(C21)N)C2=CC(=CC=C2)OCCCN2C=NC=C2 | C24H22N6O2
